US07977331B1
To a solution of ethyl 4-aminocinnamate (1.00 g, 5.23 mmol) and 1-tert-butoxycarbonylaminocyclobutanecarboxylic acid (1.24 g, 5.75 mmol) in N,N-dimethylformamide (10 ml) were added 1-hydroxybenzotriazole monohydrate (1.44 g, 9.41 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (1.80 g, 9.41 mmol) under ice-cooling, and the mixture was stirred at room temperature for 21 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and hexane:diethyl ether (2:3) solution was added to the obtained residue. The precipitated solid was collected by filtration and washed with hexane:diethyl ether (2:3) solution. The obtained solid was dried in vacuo to give ethyl (E)-3-{4-[(1-tert-butoxycarbonylaminocyclobutanecarbonyl)amino]phenyl}acrylate (943 mg, yield 46%).

reactant | ethyl 4-aminocinnamate | 5.23 mmol, 1.00 g | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | 1-tert-butoxycarbonylaminocyclobutanecarboxylic acid | 5.75 mmol, 1.24 g | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)O | C10H17NO4
reactant | 1-hydroxybenzotriazole monohydrate | 9.41 mmol, 1.44 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 9.41 mmol, 1.80 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl (E)-3-{4-[(1-tert-butoxycarbonylaminocyclobutanecarbonyl)amino]phenyl}acrylate | 943 mg, yield 46% | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)NC1=CC=C(C=C1)/C=C/C(=O)OCC | C21H28N2O5
